US08383642B2
[4-(Bromomethyl)-2-methoxy-phenyl]methoxy-tert-butyl-dimethyl-silane
To a solution of (4-bromomethyl-2-methoxy-phenyl)-methanol (1.1 g, 4.76 mmol) in dichloromethane (15 mL) is added imidazole (0.861 g, 5.71 mmol) and tert-butylchlorodimethylsilane (0.971 g, 12.98 mmol) at 0° C. The reaction mixture is allowed to warm to room temperature and stirred for one hour. The reaction mixture is quenched with water and concentrated. The residue is diluted with DCM, washed with water (15 mL) and brine (15 mL), dried over sodium sulfate, filtered, and concentrated to give the title compound (1.1 g, 66.9%). 1H NMR (400 MHz, CDCl3) δ 7.43-7.41 (d, J=8 Hz, 1H), 7.00-6.98 (d, J=8 Hz, 1H), 6.94 (s, 1H), 4.73 (s, 2H), 4.50 (s, 2H), 3.83 (s, 3H), 0.95 (s, 9H), 0.10 (s, 6H).

reactant | (4-bromomethyl-2-methoxy-phenyl)-methanol | 4.76 mmol, 1.1 g | BrCC1=CC(=C(C=C1)CO)OC | C9H11BrO2
reactant | imidazole | 5.71 mmol, 0.861 g | N1C=NC=C1 | C3H4N2
reactant | tert-butylchlorodimethylsilane | 12.98 mmol, 0.971 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | [4-(Bromomethyl)-2-methoxy-phenyl]methoxy-tert-butyl-dimethyl-silane | 1.1 g, 66.9% | BrCC1=CC(=C(C=C1)CO[Si](C)(C)C(C)(C)C)OC | C15H25BrO2Si
